US05426107
5-[2-Ethoxy-5-(4-methyl-1-piperazinyl)sulphonamidophenyl]-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one
The title compound was prepared from 4-methyl-1-piperazinylsulphonyl chloride and 5-(5-amino-2-ethoxyphenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one, following the procedure of Example 41, and was obtained as an orange powder (13%), m.p. 152°-153° C. Found: C,54.32; H,6.38; N,19.88. C22H31N7O4S requires C,53.97; H,6.38; N,20.03%.

reactant | 4-methyl-1-piperazinylsulphonyl chloride | CN1CCN(CC1)S(=O)(=O)Cl | C5H11ClN2O2S
reactant | 5-(5-amino-2-ethoxyphenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one | NC=1C=CC(=C(C1)C=1NC(C2=C(N1)C(=NN2C)CCC)=O)OCC | C17H21N5O2
product | 5-[2-Ethoxy-5-(4-methyl-1-piperazinyl)sulphonamidophenyl]-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one | C(C)OC1=C(C=C(C=C1)NS(=O)(=O)N1CCN(CC1)C)C=1NC(C2=C(N1)C(=NN2C)CCC)=O | C22H31N7O4S
